US07713969B2
A mixture of 3-(5,6-dihydro-4H-pyrrolo[3,2,1-ij]quinolin-1-yl)-4-(3-methoxyphenyl)-1H-pyrrole-2,5-dione (0.73 g, 2.04 mmol), magnesium (0.89 g, 36.7 mmol) in anhydrous methanol was heated to reflux for 1.5 h. After cooling to room temperature, the light yellow solution was diluted with ethyl acetate (200 mL), washed with 1.0 M hydrochloric acid (2×50 mL), water (100 mL), dried over sodium sulfate and concentrated to provide a light brown solid. The residue was purified by column chromatography on silica gel eluting with 40-50% ethyl acetate in hexane to yield (±)-trans-3-(5,6-dihydro-4H-pyrrolo[3,2,1-ij]quinolin-1-yl)-4-(3-methoxyphenyl)pyrrolidine-2,5-dione as a light yellow solid. Mp 87-91° C.; 1H NMR (CDCl3) 400 MHz δ: 8.73 (s. I H), 7.25-7.30 (m, 1H), 7.14 (d, J-J=7.6 Hz, 1H), 6.93-7.01 (m, 3H), 6.77-6.86 (m, 3H), 4.36 (d, J=6.4 Hz, 1H), 4.24 (d, J=6.4 Hz, I H), 4.18 (t J=5.5 Hz, 2H), 3.78 (s, 3H), 2.97 (t, J=5.6 Hz, 2H), 2.19-2.24 (m, 2H).

reactant | 3-(5,6-dihydro-4H-pyrrolo[3,2,1-ij]quinolin-1-yl)-4-(3-methoxyphenyl)-1H-pyrrole-2,5-dione | 2.04 mmol, 0.73 g | C1(=CN2CCCC3=CC=CC1=C23)C=2C(NC(C2C2=CC(=CC=C2)OC)=O)=O | C22H18N2O3
reactant | magnesium | 36.7 mmol, 0.89 g | [Mg] | Mg
solvent | methanol | CO | CH4O
solvent | ethyl acetate | 200 mL | C(C)(=O)OCC | C4H8O2
product | (±)-trans-3-(5,6-dihydro-4H-pyrrolo[3,2,1-ij]quinolin-1-yl)-4-(3-methoxyphenyl)pyrrolidine-2,5-dione | C1(=CN2CCCC3=CC=CC1=C23)[C@@H]2C(NC([C@H]2C2=CC(=CC=C2)OC)=O)=O | C22H20N2O3
